2124-05-17 06:23:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 SPUTUM CULTURE - At [**2124-5-16**] 11:10 AM
 STOOL CULTURE - At [**2124-5-16**] 11:11 AM
 CHEST TUBE PLACED - At [**2124-5-16**] 12:20 PM
   [**2124-5-16**]:
   - developed low grade temp (99.4) and leukocytosis overnight on [**5-15**], C
   Diff and sputum sent, CXR done
   - Chest X-ray done to evaluate for infection given low grade temp and
   leukocytosis showed large left-sided pneumothorax
   - thoracic surgery consulted and placed left sided pigtail catheter
   - repeat CXR showed some lung re-expansion, but still moderate sized
   ptx. Thoracic surgery following
   - attempted to contact Dr. [**Last Name (STitle) **] at [**Hospital1 49**] x2 but unable to establish
   contact
   - dc'[**Name2 (NI) **] insulin gtt and started fixed dose/sliding scale insulin
   - phenyotin level 12.7, albumin corrected value 20.5 which is at goal
   of 15-20
   - blood sugars elevated in pm to 400's, did not get am lantus dose
   -sputum gram stain showed 1+ PMN
s and no organisms
   Allergies:
   Lorazepam
   Confusion/Delir
   Last dose of Antibiotics:
   Vancomycin - [**2124-5-16**] 08:09 AM
   Ceftriaxone - [**2124-5-16**] 12:00 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2124-5-16**] 06:00 PM
   Metoprolol - [**2124-5-17**] 12:30 AM
   Dilantin - [**2124-5-17**] 12:30 AM
   Other medications: lantus 26U qam, HISS,
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2124-5-17**] 06:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 37.9
C (100.2
   HR: 90 (77 - 92) bpm
   BP: 113/57(67) {81/36(49) - 123/61(86)} mmHg
   RR: 16 (14 - 22) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 75.7 kg (admission): 73.6 kg
   Height: 64 Inch
    CVP: 342 (11 - 344)mmHg
   Total In:
                                                                  1,538 mL
                                                                    443 mL
   PO:
   TF:
   IVF:
                                                                    344 mL
                                                                     60 mL
   Blood products:
   Total out:
                                                                  2,055 mL
                                                                    460 mL
   Urine:
                                                                    965 mL
                                                                    430 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -517 mL
                                                                    -16 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 460 (460 - 460) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: RR >35
   PIP: 25 cmH2O
   Plateau: 18 cmH2O
   Compliance: 35.4 cmH2O/mL
   SpO2: 100%
   ABG: ///23/
   Ve: 7.3 L/min
   RSBI Deferred: RR >35
   PIP: 25 cmH2O
   Plateau: 18 cmH2O
   Compliance: 35.4 cmH2O/mL
   SpO2: 100%
   ABG: ///23/
   Ve: 7.3 L/min
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: Pupils Left 1mm, Right 2mm and non-reactive,
   staccotic eye movements. No tracking
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (PMI Hyperdynamic), (S1: Normal), (S2: Normal), no
   murmurs appreciated
   Peripheral Vascular: cool upper extremities with punctuate lesions on
   fingertips
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Bowel sounds present, non-tender, minimally distended
   Extremities: Upper extremity non-pitting edema L>R
   Skin:  Cool, No(t) Rash: , No(t) Jaundice
   Neurologic: Unresponsive off sedation. Upgoing toes bilaterally. No
   purposeful response to deep nail-bed pressure in upper or lower
   extremities. Decerebrate posturing. Spontaneous movement of upper
   extremities, no-purposeful movements
   Labs / Radiology
   163 K/uL
   10.4 g/dL
   468 mg/dL
   0.6 mg/dL
   23 mEq/L
   4.3 mEq/L
   25 mg/dL
   110 mEq/L
   139 mEq/L
   32.0 %
   19.6 K/uL
        [image002.jpg]
                             [**2124-5-13**]  04:56 AM
                             [**2124-5-13**]  02:49 PM
                             [**2124-5-14**]  04:20 AM
                             [**2124-5-14**]  02:59 PM
                             [**2124-5-15**]  05:00 AM
                             [**2124-5-15**]  10:30 AM
                             [**2124-5-15**]  03:22 PM
                             [**2124-5-16**]  05:29 AM
                             [**2124-5-16**]  03:03 PM
                             [**2124-5-17**]  04:40 AM
   WBC
   15.0
   12.0
   12.0
   15.2
   19.6
   Hct
   29.2
   29.4
   31.1
   28.4
   30.0
   30.0
   32.5
   32.0
   Plt
   146
   151
   122
   139
   163
   Cr
   0.8
   0.7
   0.7
   0.5
   0.5
   0.5
   0.6
   0.6
   TropT
   0.07
   Glucose
   230
   321
   365
   127
   125
   100
   468
   Other labs: PT / PTT / INR:13.7/31.3/1.2, CK / CKMB /
   Troponin-T:32/7/0.07, ALT / AST:14/19, Alk Phos / T Bili:53/0.4,
   Differential-Neuts:75.0 %, Band:0.0 %, Lymph:15.0 %, Mono:7.0 %,
   Eos:1.0 %, Lactic Acid:1.8 mmol/L, Albumin:2.6 g/dL, LDH:300 IU/L,
   Ca++:8.7 mg/dL, Mg++:2.1 mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
   81F with PMH of DM, HOCM, CHF, Afib and recent intraventricular
   hemorrhage found unresponsive at nursing home went into PEA for which
   received atropine and muptiple dose of epi now intubated and
   unresponsive.
   # Cardiac arrest (PEA or ?bradycardic): Unclear etiology for arrest:
   most likely hypoglycemia, hypoxia less likely. Echo with no evidence of
   pericardial effusion or rv strain.
   - no heparin or ASA given GI bleed
   # Altered mental status/unresponsiveness: Thought most likely hypoxic
   brain injury in setting of PEA arrest from hypoglycemia and GI bleed,
   however MRI yesterday showed no evidence of ischemia.  Also in
   differential is status epilepticus, prolonged effect from hypoglycemic
   episode, medication effect. Last dose of sedation was on [**5-14**] when she
   received fentanyl bolus for MRI. MRI showed chronic overshunting
   however this not likely to be contributing to current presentation.
   Dilantin level is therapeutic
   - neuro consult appreciated, follow up neuro recs
   - d/w neuro re: prognosis of neuro recovery and other possible
   etiologies of current neurological status
   - continue phenytoin at current dose
   - discuss goals of care pending assessment of  patients chance of
   neurological recovery
   - per family request will attempt to arrange transfer to neurologic ICU
   at [**Hospital1 49**].
   .
   # Pneumothorax: Identified on chest X-ray on [**5-16**] likely secondary to
   subclavian line placement on [**5-12**]. Thoracic surgery was consulted and
   placed pigtail catheter yesterday with interval re-expansion of the
   lung, but still residual moderate sized pneumothorax.
   - continue chest tube to suction
   - appreciate thoracics input, follow recs
   - daily CXR and mixed venous gas
   # Respiratory failure: pt with good gag and cough. Intubated for airway
   protection in the setting of unresponsiveness.
   - cont full vent support
   .
   # Bacteremia: OSH cultures show GPC in 4/4bottles from [**5-11**]. On vanc
   day #6. Blood cultures here from [**5-11**] and [**5-15**] with no growth to date.
   Vamnc level 10.2 yesterday therefore dose increased appropriately
   - continue vancomycin to complete 14 day course
   - recheck vanc level in am
   - f/u blood cx from [**5-15**] and [**5-16**]
   .
   # Hyperglycemia
 elevated to 400
s after d/c
ing insulin gtt however
   did not receive basal lantus [**5-16**]
   -cont lantus 26U qAM
   -add 20 U insulin to TPN
   -cont SS insulin
   .
   # UTI: Urinalysis from [**5-15**] positive for infection with pyuria,
   bacturia and positive leukocyte esterase. Was started on ceftriaxone on
   [**5-15**], Urine culture showed only yeast
   - continue ceftriaxone (day #1 =[**5-15**]) day [**3-23**]
   .
   # Low grade temperature and leukocytosis: White count continues to rise
   to 19K today from 15.2 with Tmax of 100.2. Differential diagnosis of
   infectious process is broad and includes VAP, C Diff or other GI
   infection. CXR with no evidence of focal consolidation. Sputum gram
   stain negative for organisms, culture pending. Retrocardiac opacity
   most likely atelectasis but will follow imaging closely. Already on
   vanc for staph bacteremia with negative surveillance cultures and
   ceftriaxone for UTI
   - monitor for clinical evidence of infection
   - repeat chest X-ray today
   - f/u sputum, pleural fluid culture
   - consider Zosyn for VAP if clinically deteriorates
   - trend WBC
   .
   # UGIB: HCT stable. EGD + for clot that could not be removed. Cont
   supportive care per GI. No further episodes of melena/hematemesis since
   [**5-13**]. Hct has remained stable
   - Goals Hct 30, INR<1.5, Plt >50
   -PPI [**Hospital1 **]
   - monitor for signs of active bleeding
   - daily Hct
   .
   # s/p porcine MVR : INR is currently subtherapeutic s/p FFP and vitamin
   K at OSH for acute UGIB.  TTE with only trace MR
   - hold anticoagulation for now given GI bleed
   # Hypernatremia:  Improved.
   - monitor Na daily, bolus IVF prn
   # Ppx: pneumoboots, holding sub q heparin, protonix
   # FEN:  TPN, IVF prn, replete lytes prn
   # Access: left subclavian
   # Code:  Full
   # Disp: ICU for now
   # Contact:  Daughter, [**Name (NI) 5542**] [**Name (NI) 5543**], HCP, [**Telephone/Fax (1) 5545**] or her
   husband [**Name (NI) **], [**Telephone/Fax (1) 5546**]
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2124-5-16**] 04:05 PM 62.5 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2124-5-12**] 05:47 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   Chart reviewed.  Patinet interviewed and examined.  I agree with Dr.
   [**Last Name (STitle) 164**]
s H+P, A+P.  60 minutes spent on patient critical care.  ICU level
   care secondary to intubation.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 2363**], MD
   on:[**2124-5-17**] 17:17 ------

2124-05-18 07:04:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - [**Hospital1 49**] refused patient transfer. Family will try to facilitate further.
   - LUE very swollen with large DVT in UE by ultrasound
   - GI would like to go EGD tomorrow to eval continued bleed prior to
   initiation of anticoagulation.  From neurology perspective no
   contraindication to anticoagulation.
   - Neuro recs - t/c tx of hypothyroidism though likely euthyroid sick
   syndrome.
   - Neurosurg - accessed shunt due to concern re: infection.  ventricles
   collapsed only able to get small amount of fluid. Requested copies of
   MRI and CT head imaging from [**Hospital1 49**] - family to obtain.
   - Thoracics recommended putting the pigtail to waterseal and checking
   CXR in am.
   - pt spiked to 100.6 pan-cultured.
   Allergies:
   Lorazepam
   Confusion/Delir
   Last dose of Antibiotics:
   Ceftriaxone - [**2124-5-17**] 11:59 AM
   Vancomycin - [**2124-5-17**] 08:10 PM
   Infusions:
   Other ICU medications:
   Dilantin - [**2124-5-18**] 12:30 AM
   Pantoprazole (Protonix) - [**2124-5-18**] 06:36 AM
   Metoprolol - [**2124-5-18**] 06:36 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems: Patient intubated and sedated
   Flowsheet Data as of  [**2124-5-18**] 07:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.6
   Tcurrent: 37.2
C (99
   HR: 85 (77 - 92) bpm
   BP: 111/46(63) {87/18(46) - 133/65(79)} mmHg
   RR: 14 (8 - 25) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 75.7 kg (admission): 73.6 kg
   Height: 64 Inch
    CVP: 10 (6 - 10)mmHg
   Total In:
                                                                  1,913 mL
                                                                    532 mL
   PO:
   TF:
   IVF:
                                                                    701 mL
                                                                     91 mL
   Blood products:
   Total out:
                                                                  1,415 mL
                                                                    336 mL
   Urine:
                                                                  1,135 mL
                                                                    310 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    498 mL
                                                                    196 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 460 (460 - 460) mL
   Vt (Spontaneous): 156 (156 - 156) mL
   RR (Set): 14
   RR (Spontaneous): 1
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: RR >35
   PIP: 23 cmH2O
   Plateau: 17 cmH2O
   Compliance: 38.3 cmH2O/mL
   SpO2: 100%
   ABG: 7.44/36/134//1
   Ve: 8.4 L/min
   PaO2 / FiO2: 335
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: Pupils Left 1mm, Right 2mm and non-reactive,
   staccotic eye movements. No tracking
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (PMI Hyperdynamic), (S1: Normal), (S2: Normal), no
   murmurs appreciated
   Peripheral Vascular: cool upper extremities with punctuate lesions on
   fingertips
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Bowel sounds present, non-tender, minimally distended
   Extremities: Upper extremity non-pitting edema L>R.  LUE with marked
   edema.
   Skin:  Cool, No(t) Rash: , No(t) Jaundice
   Neurologic: Unresponsive off sedation. Upgoing toes bilaterally. No
   purposeful response to deep nail-bed pressure in upper or lower
   extremities. Decerebrate posturing. No-purposeful movements
   Labs / Radiology
   163 K/uL
   10.4 g/dL
   468 mg/dL
   0.6 mg/dL
   23 mEq/L
   4.3 mEq/L
   25 mg/dL
   110 mEq/L
   139 mEq/L
   32.0 %
   19.6 K/uL
        [image002.jpg]
                             [**2124-5-13**]  02:49 PM
                             [**2124-5-14**]  04:20 AM
                             [**2124-5-14**]  02:59 PM
                             [**2124-5-15**]  05:00 AM
                             [**2124-5-15**]  10:30 AM
                             [**2124-5-15**]  03:22 PM
                             [**2124-5-16**]  05:29 AM
                             [**2124-5-16**]  03:03 PM
                             [**2124-5-17**]  04:40 AM
                             [**2124-5-18**]  06:00 AM
   WBC
   12.0
   12.0
   15.2
   19.6
   Hct
   29.4
   31.1
   28.4
   30.0
   30.0
   32.5
   32.0
   Plt
   151
   122
   139
   163
   Cr
   0.7
   0.7
   0.5
   0.5
   0.5
   0.6
   0.6
   TCO2
   25
   Glucose
   [**Telephone/Fax (3) 5685**]25
   100
   468
   Other labs: PT / PTT / INR:13.7/31.3/1.2, CK / CKMB /
   Troponin-T:32/7/0.07, ALT / AST:14/19, Alk Phos / T Bili:53/0.4,
   Differential-Neuts:75.0 %, Band:0.0 %, Lymph:15.0 %, Mono:7.0 %,
   Eos:1.0 %, Lactic Acid:1.8 mmol/L, Albumin:2.6 g/dL, LDH:300 IU/L,
   Ca++:8.7 mg/dL, Mg++:2.1 mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
   81F with PMH of DM, HOCM, CHF, Afib and recent intraventricular
   hemorrhage found unresponsive at nursing home went into PEA for which
   received atropine and muptiple dose of epi now intubated and
   unresponsive.
   # Cardiac arrest (PEA or ?bradycardic): Unclear etiology for arrest:
   most likely hypoglycemia, hypoxia less likely. Echo with no evidence of
   pericardial effusion or rv strain.
   - no heparin or ASA given GI bleed
   # Altered mental status/unresponsiveness: Thought most likely hypoxic
   brain injury in setting of PEA arrest from hypoglycemia and GI bleed,
   however MRI without evidence of ischemia.  Also in differential is
   status epilepticus, prolonged effect from hypoglycemic episode,
   medication effect. Last dose of sedation was on [**5-14**] when she received
   fentanyl bolus for MRI. MRI showed chronic overshunting however this
   not likely to be contributing to current presentation. Dilantin level
   is therapeutic. Given low grade fevers with bacteremia and VP shunt,
   shunt was tapped yesterday to r/o CNS infection and showed no e/o
   infection.
   - neuro consult appreciated, follow up neuro recs
   - d/w neuro re: prognosis of neuro recovery and other possible
   etiologies of current neurological status
   - phenytion level pending this am, continue phenytoin to maintain level
   15-20
   - discuss goals of care pending assessment of  patients chance of
   neurological recovery
   .
   # Pneumothorax: Identified on chest X-ray on [**5-16**] likely secondary to
   subclavian line placement on [**5-12**]. Thoracic surgery was consulted and
   placed pigtail catheter yesterday with interval re-expansion of the
   lung, but still residual moderate sized pneumothorax. Pigtail at water
   seal overnight. CXR stable
   - f/u thoracics recs to eval for possible d/c of pigtail.
   - daily CXR and mixed venous gas
   # LUE clot:  pt will require anticoagulation for at least 3 months.
   Discussed anticoagulation with neurology given previous intracranial
   hemorrhage and they felt it would be safe to resume anticoagulation.
   Discussed with GI who also do not oppose anti-coagulation but would
   like repeat EGD prior to initiation of this therapy
   - EGD today to eval mucosa for safety of anticoagulation given previous
   upper GIB.
   - anticoagulation with heparin gtt after EGD
   - d/c subclavian line after anticoagulation initiated.
   # Respiratory failure: pt with good gag and cough. Intubated for airway
   protection in the setting of unresponsiveness.
   - cont full vent support
   .
   # Bacteremia: OSH cultures show GPC in 4/4bottles from [**5-11**]. On vanc
   day #7. Blood cultures here from [**5-11**] and [**5-15**] with no growth to date.
   Vanc level 23 this am after adjusting dose 2 days ago
   - decrease vancomycin to 750mg q12h. Cont abx to complete 14 day course
   - recheck vanc level in 48 hours
   - f/u blood cx from [**5-15**] and [**5-16**]
   - OSH micro data for speciation
   - TEE today to eval for endocarditis
   .
   # UTI: Urinalysis from [**5-15**] positive for infection with pyuria,
   bacturia and positive leukocyte esterase. Was started on ceftriaxone on
   [**5-15**], Urine culture showed only yeast
   - continue ceftriaxone (day #1 =[**5-15**]) day [**4-23**]
   .
   # Low grade temperature and leukocytosis: White count continues at 19K
   today with Tmax of 100.6. Differential diagnosis of infectious process
   is broad and includes VAP, C Diff or other GI infection. CXR with no
   evidence of focal consolidation. Sputum gram stain negative for
   organisms, culture pending. Retrocardiac opacity most likely
   atelectasis but will follow imaging closely. Already on vanc for staph
   bacteremia with negative surveillance cultures and ceftriaxone for UTI
   - monitor for clinical evidence of infection
   - f/u sputum, pleural fluid culture
   - consider Zosyn for VAP if clinically deteriorates
   - trend WBC
   - TEE for endocarditis
   .
   # Hyperglycemia
 elevated to 400
s after d/c
ing insulin gtt however
   did not receive basal lantus [**5-16**]. Improved in last 24 hours with blood
   sugars in 100-200
s on lantus/HISS
   -cont lantus 26U qAM
   -continue 20 U insulin in TPN
   -cont SS insulin
   .
   # UGIB: HCT stable. EGD + for clot that could not be removed. Cont
   supportive care per GI. No further episodes of melena/hematemesis since
   [**5-13**]. Hct has remained stable
   - repeat EGD today to eval for clot
   - Goals Hct 30, INR<1.5, Plt >50
   - PPI [**Hospital1 **]
   - monitor for signs of active bleeding
   - daily Hct
   - t/c starting TF after EGD
   # Thyroid: Elevated TSH of 8 with slightly low free T 4 (0.9) several
   days ago. Difficult to interpret in critically ill patient
   - repeat TFT
   .
   # s/p porcine MVR : INR is currently subtherapeutic s/p FFP and vitamin
   K at OSH for acute UGIB.  TTE with only trace MR
   - hold anticoagulation for now given GI bleed
   # Ppx: pneumoboots, holding sub q heparin, protonix
   # FEN:  TPN, IVF prn, replete lytes prn
   # Access: will d/c left subclavian; will place left IJ
   # Code:  Full Code
   # Disp: ICU for now
   # Contact:  Daughter, [**Name (NI) 5542**] [**Name (NI) 5543**], HCP, [**Telephone/Fax (1) 5545**] or her
   husband [**Name (NI) **], [**Telephone/Fax (1) 5546**]
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2124-5-17**] 08:20 PM 62.5 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2124-5-12**] 05:47 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   Chart reviewed.  Patient examined.  Unable to interview secondary to
   intubated status.  I agree with Dr. [**Last Name (STitle) 5621**]
s H+P, A+P.  Given DVT in
   LUE, we plan to obtain additional IV access, d/c left subclavian line,
   and perform EGD.  Will defer initiation of anticoagulation until we
   have GI
s input post EGD.  Other issues as outlined in Dr. [**Last Name (STitle) 5621**]
   note.  60 minutes spent on patient critical care.  ICU level care due
   to intubated status.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 2363**], MD
   on:[**2124-5-18**] 12:32 ------

2124-05-19 06:52:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -started thyroid replacement per neuro
   -decr. vanc to 750 q12
   -chest tube to water seal
   -EGD showed persistent but smaller organized clot in fundus, not
   dislodged [**2-21**] high risk of bleeding
   -TEE showed no IE but mechanical MVR - needs anticoag despite clot
   -head CT unchanged c/w MRI [**5-14**], no bleed
   -T 101.2 @ 1600 - blood/urine Cx, CXR, CT sinus - mild L sphenoid
   mucosal thickening
   -R IJ placed
   -started heparin gtt
   Allergies:
   Lorazepam
   Confusion/Delir
   Last dose of Antibiotics:
   Ceftriaxone - [**2124-5-18**] 12:00 PM
   Vancomycin - [**2124-5-18**] 10:00 PM
   Infusions:
   Heparin Sodium - 400 units/hour
   Other ICU medications:
   Dilantin - [**2124-5-18**] 04:00 PM
   Midazolam (Versed) - [**2124-5-18**] 04:15 PM
   Fentanyl - [**2124-5-18**] 04:15 PM
   Pantoprazole (Protonix) - [**2124-5-18**] 06:00 PM
   Metoprolol - [**2124-5-19**] 06:21 AM
   Other medications: phenytoin 100mg IV q12h, metoprolol 5mg IV q6h,
   levothyroxine 12.5mcg IV
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:  Intubated
   Flowsheet Data as of  [**2124-5-19**] 06:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.2
   Tcurrent: 37.4
C (99.3
   HR: 85 (71 - 87) bpm
   BP: 120/54(68) {94/32(33) - 132/60(73)} mmHg
   RR: 17 (14 - 19) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 75.7 kg (admission): 73.6 kg
   Height: 64 Inch
    CVP: 18 (11 - 57)mmHg
   Total In:
                                                                  1,916 mL
                                                                    524 mL
   PO:
   TF:
   IVF:
                                                                    728 mL
                                                                     96 mL
   Blood products:
   Total out:
                                                                  1,141 mL
                                                                    400 mL
   Urine:
                                                                    840 mL
                                                                    335 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    775 mL
                                                                    124 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/AutoFlow
   Vt (Set): 460 (460 - 460) mL
   RR (Set): 14
   RR (Spontaneous): 2
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: RR >35
   PIP: 25 cmH2O
   Plateau: 16 cmH2O
   Compliance: 41.8 cmH2O/mL
   SpO2: 100%
   ABG: ///24/
   Ve: 5.3 L/min
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: Pupils Left 1mm, Right 2mm and non-reactive,
   staccotic eye movements. No tracking. +blink to threat this am
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: RRR nl S1S2, no murmurs appreciated
   Peripheral Vascular: DP/PTY pulses palpable bilaterally
   Respiratory / Chest: vented breath sounds, no crackles or wheezes
   appreciated
   Abdominal: Bowel sounds present, non-tender, minimally distended
   Extremities: Upper extremity non-pitting edema L>R.  LUE with marked
   edema.
   Skin:  Cool, No Rash: , No Jaundice
   Neurologic: Unresponsive off sedation. Upgoing toes bilaterally. No
   purposeful response to deep nail-bed pressure in upper or lower
   extremities. Decerebrate posturing. No-purposeful movements
   Labs / Radiology
   236 K/uL
   9.4 g/dL
   210 mg/dL
   0.5 mg/dL
   23
   4.2 mEq/L
   22 mg/dL
   107 mEq/L
   138 mEq/L
   28.8 %
   17.6 K/uL
                             [**2124-5-14**]  02:59 PM
                             [**2124-5-15**]  05:00 AM
                             [**2124-5-15**]  10:30 AM
                             [**2124-5-15**]  03:22 PM
                             [**2124-5-16**]  05:29 AM
                             [**2124-5-16**]  03:03 PM
                             [**2124-5-17**]  04:40 AM
                             [**2124-5-18**]  06:00 AM
                             [**2124-5-18**]  06:30 AM
                             [**2124-5-18**]  08:51 PM
   WBC
   12.0
   15.2
   19.6
   19.3
   18.3
   Hct
   28.4
   30.0
   30.0
   32.5
   32.0
   30.8
   29.0
   Plt
   122
   139
   163
   184
   196
   Cr
   0.7
   0.5
   0.5
   0.5
   0.6
   0.6
   0.5
   0.4
   TCO2
   25
   Glucose
   365
   127
   125
   100
   468
   198
   68
   Other labs: PT / PTT / INR:13.3/37.9/1.1, CK / CKMB /
   Troponin-T:32/7/0.07, ALT / AST:55/110, Alk Phos / T Bili:99/0.3,
   Differential-Neuts:83.6 %, Band:0.0 %, Lymph:10.9 %, Mono:5.0 %,
   Eos:0.3 %, Lactic Acid:1.8 mmol/L, Albumin:2.6 g/dL, LDH:300 IU/L,
   Ca++:8.0 mg/dL, Mg++:2.0 mg/dL, PO4:3.6 mg/dL
   EGD ([**2124-5-19**]): A large organized clot was seen in the fundus which is
   slightly smaller in size compared to previously seen clot during the
   endoscopy finding 1 week ago. Unable to see underneath of the clot to
   rule out ulceration. The clot was not dislodged due to very high risk
   of bleeding.
   Assessment and Plan
   81F with PMH of DM, HOCM, CHF, Afib and recent intraventricular
   hemorrhage found unresponsive and hypoglycemic in PEA arrest, now
   intubated and unresponsive.
   # Cardiac arrest (PEA or ?bradycardic): Unclear etiology for arrest:
   most likely hypoglycemia, hypoxia less likely. Echo with no evidence of
   pericardial effusion or rv strain.
   - no heparin or ASA given GI bleed
   # Altered mental status/unresponsiveness: Thought most likely hypoxic
   brain injury in setting of PEA arrest from hypoglycemia and GI bleed,
   however MRI without evidence of ischemia.  Also in differential is
   status epilepticus, prolonged effect from hypoglycemic episode,
   medication effect. Last dose of sedation was on [**5-14**] when she received
   fentanyl bolus for MRI. MRI showed chronic overshunting however this
   not likely to be contributing to current presentation. Dilantin level
   is therapeutic. Given low grade fevers with bacteremia and VP shunt,
   shunt was tapped  to r/o CNS infection and showed no e/o infection.
   -neuro consult appreciated, follow up neuro recs
   -d/w neuro re: prognosis of neuro recovery
   -PSV trial given that she has adeq. gag and cough reflexes and was
   intubated for airway protection
   -phenytoin level pending this am, continue phenytoin to maintain level
   15-20
 d/w neuro re:need for phenytoin given no e/o seizure activity
   - arrange for multidisciplinary  family discussion today
   .
   # UGIB: HCT stable. EGD + for clot that could not be removed. Repeat
   EGD showed residual organizing clot. Cont supportive care per GI. No
   further episodes of melena/hematemesis since [**5-13**]. Hct has remained
   stable. High risk to rebleed given appearance of clot in fundus and
   initiation of anti-coagulation
   -If rebleeds, will need surgical intervention per GI
   - xfuse for Hct <30
   -[**Hospital1 **] Hct
   -active T&C
   -PPI [**Hospital1 **]
   -monitor closely for signs of active bleeding
   .
   #Fever/ leukocytosis: White count continues at 18K today with Tmax of
   101.2. CXR with retrocardiac no evidence of focal consolidation. Sputum
   gram stain negative for organisms, culture pending. TEE negative. C
   Diff negative. CT sinus with some mild thickening. On vanc for staph
   bacteremia with negative surveillance cultures and ceftriaxone for UTI
   (adeq. Cov
g for septic thrombophlebitis)
    -CT torso to look for focal infection
   -recheck c. diff
   -send subclavian line for Cx
   -f/u sputum, pleural fluid culture
   -consider Zosyn for VAP if clinically deteriorates
   -trend WBC, fever curve
   .
   # s/p mechanical MVR : TEE yesterday showed mechanical valve further
   supporting need for anticoagulation. Started on heparin on [**5-18**]
   - cont heparin gtt with goal PTT 60-80
   .
   # LUE clot:  Extensive clot likely related to subclavian line
   placement. Repeat EGD showed residual organized clot and GI recommended
   against anti-coagulation. Head CT negative for bleed, neurology not
   opposed to anti-coagulation. After discussion of risk vs benefit, it
   was decided to initiate anti-coagulation yesterday with heparin. pt
   will require anticoagulation for at least 3 months.
   -cont anticoagulation with heparin gtt
   -d/c subclavian line and send for cx
   .
   # Pneumothorax: Identified on chest X-ray on [**5-16**] likely secondary to
   subclavian line placement on [**5-12**]. Thoracic surgery was consulted and
   placed pigtail catheter. Pigtail at water seal. CXR stable
   - f/u thoracics recs to eval for possible d/c of pigtail catheter
   - daily CXR and mixed venous gas
   .
   # Hyperglycemia
 suboptimally controlled
   -cont lantus 26U qAM
   -incr. insulin in TPN
   -cont SS insulin
   .
   # Bacteremia: OSH cultures show GPC in 4/4bottles from [**5-11**] with meth
   resistant staph epi. On vanc day #8. Blood cultures here from [**5-11**] and
   [**5-15**], [**5-16**] with no growth to date. TEE with no evidence of valvular
   vegetation
   - cont vancomycin 750mg q12h to complete 14 day course
   - recheck vanc level tomorrow am
   - f/u blood cx from [**5-15**] and [**5-16**]
   .
   # UTI: Urinalysis from [**5-15**] positive for infection with pyuria,
   bacturia and positive leukocyte esterase. Was started on ceftriaxone on
   [**5-15**], Urine culture showed only yeast. Repeat urine culture pending
   - continue ceftriaxone (day #1 =[**5-15**]) day [**5-23**]
   .
   # Hypothyroidism: Elevated TSH of 8 with slightly low free T 4 (0.9).
   Was started on throid replacement yesterday
   - cont levothyroxine
   .
   # Ppx: pneumoboots, heparin gtt, protonix
   # FEN:  TPN, IVF prn, replete lytes prn
   # Access: d/c left subclavian after additional access obtained; right
   IJ placed on [**5-18**]
   # Code:  Full Code
   # Disp: ICU for now
   # Contact:  Daughter, [**Name (NI) 5542**] [**Name (NI) 5543**], HCP, [**Telephone/Fax (1) 5545**] or her
   husband [**Name (NI) **], [**Telephone/Fax (1) 5546**]
   ------ Protected Section ------
   Chart reviewed.  Patient examined.  Unable to interview due to
   intubated status and altered mental status.  I agree with Dr. [**Last Name (STitle) **]
   H+P, A+P.  Remains obtunded, critically ill.  Requires anticoagulation
   for mechanical MV and upper extremity DVT but has moderate-sized,
   recently active GI blled.  We have reinstituted heparin and will
   monitor hct closely.   On antibiotics for recent bacteremia although
   subsequent blood cultures have been negative.  ID w/u is underway for
   persistent low grade temp.  Neuro status is unchanged.  She continues
   to have a very poor prognosis for meaningful neurological recovery.
   An extensive ~ 60 minute family meeting occurred today with the family,
   CCU team, and neuro team.  The family was provided with a thorough
   update on her status and prognosis.  They understand that certain
   options, such as surgical treatment of her GI bleed are not feasible.
   They continue to hope for some recovery.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 2363**], MD
   on:[**2124-5-19**] 15:42 ------
   90 minutes spent on patient critical care.  ICU level care due to
   intubated status.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 2363**], MD
   on:[**2124-5-19**] 15:43 ------

2124-05-20 07:14:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - continued to spike fevers (Tmax 101.2) with leukocytosis
   - liquid stool, melanotic but small volume. Sent repeat C Diff
   - LFT's trending up, ? ceftriaxone which has now been stopped.
   continuing to trend
   - unable to obtain peripheral access, therefore subclavian left in
   place to use if needed for emergency access
   - CT Chest/Abd/Pelvis with contrast to evaluate for evidence of
   infection showed no focal infectious process, but did showed common
   iliac --> femoral DVT. Final read pending
   - Family meeting with neurology and medicine with some progress. Son
   and daughter do not feel that their mother would want prolonged life
   support and are approaching decision. Son more decisive than daughter
   who is still coming to terms with this
   - pigtail continues on water seal
   - transient hypotension to 77 at 1700, 2 hours after lasix 20mg IV with
   800cc output. Recovered without intervention
   Allergies:
   Lorazepam
   Confusion/Delir
   Last dose of Antibiotics:
   Ceftriaxone - [**2124-5-19**] 11:36 AM
   Vancomycin - [**2124-5-19**] 08:42 PM
   Infusions:
   Heparin Sodium - 700 units/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2124-5-19**] 10:14 PM
   Dilantin - [**2124-5-20**] 12:05 AM
   Metoprolol - [**2124-5-20**] 06:16 AM
   Pantoprazole (Protonix) - [**2124-5-20**] 06:17 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2124-5-20**] 07:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (101
   Tcurrent: 37.3
C (99.2
   HR: 81 (73 - 87) bpm
   BP: 99/45(57) {79/34(45) - 132/86(92)} mmHg
   RR: 17 (11 - 31) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 79 kg (admission): 73.6 kg
   Height: 64 Inch
             Total In:
                                                                  2,725 mL
                                                                    618 mL
   PO:
             TF:
   IVF:
                                                                  1,225 mL
                                                                    166 mL
   Blood products:
   Total out:
                                                                  2,755 mL
                                                                    760 mL
   Urine:
                                                                  2,380 mL
                                                                    700 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -30 mL
                                                                   -142 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 460 (460 - 460) mL
   Vt (Spontaneous): 432 (399 - 443) mL
   PS : 14 cmH2O
   RR (Set): 14
   RR (Spontaneous): 15
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 120
   PIP: 19 cmH2O
   SpO2: 100%
   ABG: ////
   Ve: 7.2 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   236 K/uL
   9.4 g/dL
   210 mg/dL
   0.5 mg/dL
   23 mEq/L
   4.2 mEq/L
   22 mg/dL
   107 mEq/L
   138 mEq/L
   27.5 %
   17.6 K/uL
        [image002.jpg]
                             [**2124-5-15**]  10:30 AM
                             [**2124-5-15**]  03:22 PM
                             [**2124-5-16**]  05:29 AM
                             [**2124-5-16**]  03:03 PM
                             [**2124-5-17**]  04:40 AM
                             [**2124-5-18**]  06:00 AM
                             [**2124-5-18**]  06:30 AM
                             [**2124-5-18**]  08:51 PM
                             [**2124-5-19**]  06:03 AM
                             [**2124-5-19**]  02:00 PM
   WBC
   15.2
   19.6
   19.3
   18.3
   17.6
   Hct
   30.0
   30.0
   32.5
   32.0
   30.8
   29.0
   28.8
   27.5
   Plt
   139
   163
   184
   196
   236
   Cr
   0.5
   0.5
   0.6
   0.6
   0.5
   0.4
   0.5
   TCO2
   25
   Glucose
   125
   100
   468
   198
   68
   210
   Other labs: PT / PTT / INR:13.0/56.2/1.1, CK / CKMB /
   Troponin-T:32/7/0.07, ALT / AST:107/222, Alk Phos / T Bili:99/0.3,
   Differential-Neuts:83.6 %, Band:0.0 %, Lymph:10.9 %, Mono:5.0 %,
   Eos:0.3 %, Lactic Acid:1.8 mmol/L, Albumin:2.6 g/dL, LDH:300 IU/L,
   Ca++:8.0 mg/dL, Mg++:2.0 mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
   81F with PMH of DM, HOCM, CHF, Afib and recent intraventricular
   hemorrhage found unresponsive and hypoglycemic in PEA arrest, now
   intubated and unresponsive.
   # Cardiac arrest (PEA or ?bradycardic): Unclear etiology for arrest:
   most likely hypoglycemia, hypoxia less likely. Echo with no evidence of
   pericardial effusion or rv strain.
   - no heparin or ASA given GI bleed
   # Altered mental status/unresponsiveness: Thought most likely hypoxic
   brain injury in setting of PEA arrest from hypoglycemia and GI bleed,
   however MRI without evidence of ischemia.  Also in differential is
   status epilepticus, prolonged effect from hypoglycemic episode,
   medication effect. Last dose of sedation was on [**5-14**] when she received
   fentanyl bolus for MRI. MRI showed chronic overshunting however this
   not likely to be contributing to current presentation. Dilantin level
   is therapeutic. Given low grade fevers with bacteremia and VP shunt,
   shunt was tapped  to r/o CNS infection and showed no e/o infection.
   -neuro consult appreciated, follow up neuro recs
   -d/w neuro re: prognosis of neuro recovery
   -PSV trial given that she has adeq. gag and cough reflexes and was
   intubated for airway protection
   -phenytoin level pending this am, continue phenytoin to maintain level
   15-20
 d/w neuro re:need for phenytoin given no e/o seizure activity
   - arrange for multidisciplinary  family discussion today
   .
   # UGIB: HCT stable. EGD + for clot that could not be removed. Repeat
   EGD showed residual organizing clot. Cont supportive care per GI. No
   further episodes of melena/hematemesis since [**5-13**]. Hct has remained
   stable. High risk to rebleed given appearance of clot in fundus and
   initiation of anti-coagulation
   -If rebleeds, will need surgical intervention per GI
   - xfuse for Hct <30
   -[**Hospital1 **] Hct
   -active T&C
   -PPI [**Hospital1 **]
   -monitor closely for signs of active bleeding
   .
   #Fever/ leukocytosis: White count continues at 18K today with Tmax of
   101.2. CXR with retrocardiac no evidence of focal consolidation. Sputum
   gram stain negative for organisms, culture pending. TEE negative. C
   Diff negative. CT sinus with some mild thickening. On vanc for staph
   bacteremia with negative surveillance cultures and ceftriaxone for UTI
   (adeq. Cov
g for septic thrombophlebitis)
    -CT torso to look for focal infection
   -recheck c. diff
   -send subclavian line for Cx
   -f/u sputum, pleural fluid culture
   -consider Zosyn for VAP if clinically deteriorates
   -trend WBC, fever curve
   .
   # s/p mechanical MVR : TEE yesterday showed mechanical valve further
   supporting need for anticoagulation. Started on heparin on [**5-18**]
   - cont heparin gtt with goal PTT 60-80
   .
   # LUE clot:  Extensive clot likely related to subclavian line
   placement. Repeat EGD showed residual organized clot and GI recommended
   against anti-coagulation. Head CT negative for bleed, neurology not
   opposed to anti-coagulation. After discussion of risk vs benefit, it
   was decided to initiate anti-coagulation yesterday with heparin. pt
   will require anticoagulation for at least 3 months.
   -cont anticoagulation with heparin gtt
   -d/c subclavian line and send for cx
   .
   # Pneumothorax: Identified on chest X-ray on [**5-16**] likely secondary to
   subclavian line placement on [**5-12**]. Thoracic surgery was consulted and
   placed pigtail catheter. Pigtail at water seal. CXR stable
   - f/u thoracics recs to eval for possible d/c of pigtail catheter
   - daily CXR and mixed venous gas
   .
   # Hyperglycemia
 suboptimally controlled
   -cont lantus 26U qAM
   -incr. insulin in TPN
   -cont SS insulin
   .
   # Bacteremia: OSH cultures show GPC in 4/4bottles from [**5-11**] with meth
   resistant staph epi. On vanc day #8. Blood cultures here from [**5-11**] and
   [**5-15**], [**5-16**] with no growth to date. TEE with no evidence of valvular
   vegetation
   - cont vancomycin 750mg q12h to complete 14 day course
   - recheck vanc level tomorrow am
   - f/u blood cx from [**5-15**] and [**5-16**]
   .
   # UTI: Urinalysis from [**5-15**] positive for infection with pyuria,
   bacturia and positive leukocyte esterase. Was started on ceftriaxone on
   [**5-15**], Urine culture showed only yeast. Repeat urine culture pending
   - continue ceftriaxone (day #1 =[**5-15**]) day [**5-23**]
   .
   # Hypothyroidism: Elevated TSH of 8 with slightly low free T 4 (0.9).
   Was started on throid replacement yesterday
   - cont levothyroxine
   .
   # Ppx: pneumoboots, heparin gtt, protonix
   # FEN:  TPN, IVF prn, replete lytes prn
   # Access: d/c left subclavian after additional access obtained; right
   IJ placed on [**5-18**]
   # Code:  Full Code
   # Disp: ICU for now
   # Contact:  Daughter, [**Name (NI) 5542**] [**Name (NI) 5543**], HCP, [**Telephone/Fax (1) 5545**] or her
   husband [**Name (NI) **], [**Telephone/Fax (1) 5546**]
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2124-5-19**] 09:45 PM 62.5 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2124-5-18**] 08:11 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2124-05-21 07:00:00 Physician Resident Progress Note
Chief Complaint: PEA arrest, UGIB
   24 Hour Events:
   -ID consult recommended [**4-24**] wk course of ABX given likely endovascular
   source (clot vs valve). Recs include: fungal blood cx, ESR/CRP, urine
   AFB for bladder TB, CTA for PE, RUQ u/s, changing dilantin if neuro
   agrees, and removing subclavian line & sending tip for cx.  All tests
   except CTA ordered.  Unable to get RUQ u/s on weekend as pt had CT abd
   with no e/o of cholecystitis.
   -phenytoin bolus given per neuro recs.  repeat level 9.9; corrected for
   albumin 16 (within therapeutic range).
   -pt given 1 unit PRBC for HCT of 26.1 -->28
   Allergies:
   Lorazepam
   Confusion/Delir
   Last dose of Antibiotics:
   Ceftriaxone - [**2124-5-19**] 11:36 AM
   Vancomycin - [**2124-5-20**] 07:22 PM
   Infusions:
   Heparin Sodium - 650 units/hour
   Other ICU medications:
   Metoprolol - [**2124-5-20**] 06:00 PM
   Dilantin - [**2124-5-21**] 12:13 AM
   Furosemide (Lasix) - [**2124-5-21**] 01:14 AM
   Other medications:
   Changes to medical and family history: n/a
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2124-5-21**] 07:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 36.6
C (97.8
   HR: 71 (71 - 83) bpm
   BP: 102/36(52) {92/36(52) - 127/59(76)} mmHg
   RR: 17 (14 - 29) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 79 kg (admission): 73.6 kg
   Height: 64 Inch
             Total In:
                                                                  2,747 mL
                                                                    514 mL
   PO:
             TF:
   IVF:
                                                                    977 mL
                                                                     77 mL
   Blood products:
                                                                    270 mL
   Total out:
                                                                  1,800 mL
                                                                  1,390 mL
   Urine:
                                                                  1,440 mL
                                                                  1,280 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    947 mL
                                                                   -876 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 400 (353 - 436) mL
   PS : 14 cmH2O
   RR (Spontaneous): 20
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 98
   PIP: 19 cmH2O
   SpO2: 99%
   ABG: ///25/
   Ve: 8 L/min
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: Pupils Left 1mm, Right 2mm and non-reactive,
   staccotic eye movements. No tracking. +blink to threat this am
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: RRR nl S1S2, no murmurs appreciated
   Peripheral Vascular: DP/PTY pulses palpable bilaterally
   Respiratory / Chest: vented breath sounds, no crackles or wheezes
   appreciated
   Abdominal: Bowel sounds present, non-tender, minimally distended
   Extremities: Upper extremity non-pitting edema L>R.  LUE with marked
   edema.
   Skin:  Cool, No Rash: , No Jaundice
   Neurologic: Unresponsive off sedation. Upgoing toes bilaterally. No
   purposeful response to deep nail-bed pressure in upper or lower
   extremities. Decerebrate posturing. No-purposeful movementsNeurologic:
   Responds to: Not assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   300 K/uL
   9.4 g/dL
   134 mg/dL
   0.5 mg/dL
   25 mEq/L
   3.8 mEq/L
   22 mg/dL
   105 mEq/L
   135 mEq/L
   28.4 %
   12.2 K/uL
        [image002.jpg]
                             [**2124-5-17**]  04:40 AM
                             [**2124-5-18**]  06:00 AM
                             [**2124-5-18**]  06:30 AM
                             [**2124-5-18**]  08:51 PM
                             [**2124-5-19**]  06:03 AM
                             [**2124-5-19**]  02:00 PM
                             [**2124-5-20**]  07:28 AM
                             [**2124-5-20**]  03:23 PM
                             [**2124-5-20**]  10:28 PM
                             [**2124-5-21**]  03:36 AM
   WBC
   19.6
   19.3
   18.3
   17.6
   14.0
   12.2
   Hct
   32.0
   30.8
   29.0
   28.8
   27.5
   27.0
   26.7
   28.1
   28.4
   Plt
   163
   184
   196
   [**Telephone/Fax (3) 5747**]
   Cr
   0.6
   0.5
   0.4
   0.5
   0.5
   0.5
   TCO2
   25
   Glucose
   468
   198
   68
   [**Telephone/Fax (3) 5748**]
   Other labs: PT / PTT / INR:13.3/62.8/1.1, CK / CKMB /
   Troponin-T:32/7/0.07, ALT / AST:133/230, Alk Phos / T Bili:211/0.4,
   Differential-Neuts:83.6 %, Band:0.0 %, Lymph:10.9 %, Mono:5.0 %,
   Eos:0.3 %, Lactic Acid:1.8 mmol/L, Albumin:2.6 g/dL, LDH:262 IU/L,
   Ca++:8.0 mg/dL, Mg++:1.9 mg/dL, PO4:4.0 mg/dL
   Assessment and Plan
   81F with PMH of DM, HOCM, CHF, Afib and recent intraventricular
   hemorrhage found unresponsive and hypoglycemic in PEA arrest, now
   intubated and unresponsive.
   # Altered mental status/unresponsiveness: Thought most likely hypoxic
   brain injury in setting of PEA arrest from hypoglycemia and GI bleed,
   however MRI without evidence of ischemia.  Also in differential is
   status epilepticus, prolonged effect from hypoglycemic episode,
   medication effect. Last dose of sedation was on [**5-14**] when she received
   fentanyl bolus for MRI. MRI showed chronic overshunting however this
   not likely to be contributing to current presentation. Dilantin level
   is slightly sub therapeutic. Given low grade fevers with bacteremia and
   VP shunt, shunt was tapped to r/o CNS infection and showed no e/o
   infection.  Family meeting yesterday to discuss goals of care, no
   change in plan of care at this time.
   - neuro consult appreciated, follow up neuro recs
   - continue phenytoin to maintain level 15-20, slightly low this am
   adjusted for albumin; will adjust per neuro
   - continue to communicate with family re:goals of care
   .
   # UGIB: HCT stable. EGD + for clot that could not be removed. Repeat
   EGD showed residual organizing clot. Cont supportive care per GI. No
   further episodes of melena/hematemesis since [**5-13**]. Hct has remained
   stable. High risk to rebleed given appearance of clot in fundus and
   initiation of anti-coagulation
   - transfuse for Hct <30
   - [**Hospital1 **] Hct
   - active T&C
   - PPI [**Hospital1 **]
   - monitor closely for signs of active bleeding
   .
   #Fever/ leukocytosis: Tmax of 101, but afebrile this am.. Extensive
   work-up unrevealing for infectious source including CT Chest/Abd/Pelvis
   yesterday
   - f/u sputum, pleural fluid culture, C Diff
   - consider Zosyn for VAP if clinically deteriorates
   - trend WBC, fever curve
   - consider ID consult today depending on goals of care
   .
   # s/p mechanical MVR : TEE showed mechanical valve further supporting
   need for anticoagulation. Started on heparin on [**5-18**]
   - cont heparin gtt with goal PTT 60-80
   .
   # LUE clot:  Extensive clot likely related to subclavian line
   placement. Also had iliac
 femoral clot on CT thorax. Subclavian line
   still in place. Pt will require anticoagulation for at least 3 months.
   - cont anticoagulation with heparin gtt
   .
   # Pneumothorax: Identified on chest X-ray on [**5-16**] likely secondary to
   subclavian line placement on [**5-12**]. Thoracic surgery was consulted and
   placed pigtail catheter. Pigtail at water seal. CXR stable
   - f/u thoracics recs to eval for possible d/c of pigtail catheter
   - daily CXR and mixed venous gas
   .
   # Hyperglycemia: better control after increasing insulin in TPN
   yesterday
   -cont lantus 26U qAM
   -cont 36U insulin in TPN
   -cont SS insulin
   .
   # Bacteremia: OSH cultures show GPC in 4/4bottles from [**5-11**] with MRSE.
   On vanc day #9. Blood cultures here from [**5-11**] and [**5-15**], [**5-16**] with no
   growth to date. TEE with no evidence of valvular vegetation
   - cont vancomycin 750mg q12h to complete a 14 day course or possibly
   longer per ID consult considering mechanical valve.
   - f/u vanc level from this am, adjust dose appropriately
   - f/u blood cx from [**5-15**], [**5-16**], [**5-17**], [**5-18**]
   .
   # Hypothyroidism: Elevated TSH of 8 with slightly low free T 4 (0.9).
   Was started on thyroid replacement
   - cont levothyroxine
   .
   # Ppx: pneumoboots, heparin gtt, protonix
   # FEN:  TPN, IVF prn, replete lytes prn
   # Access: d/c left subclavian if additional access able to be obtained;
   right IJ placed on [**5-18**]
   # Code:  Full Code
   # Disp: ICU for now
   # Contact:  Daughter, [**Name (NI) 5542**] [**Name (NI) 5543**], HCP, [**Telephone/Fax (1) 5545**] or her
   husband [**Name (NI) **], [**Telephone/Fax (1) 5546**]
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2124-5-20**] 05:37 PM 62.5 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2124-5-18**] 08:11 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2124-05-22 06:55:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -ordered abd U/S for [**5-22**]
   -ordered PICC by IR prior to consideration of d/c'ing L subclav CVL
   -thoracics recs - cont H20 seal
   Allergies:
   Lorazepam
   Confusion/Delir
   Last dose of Antibiotics:
   Ceftriaxone - [**2124-5-19**] 11:36 AM
   Vancomycin - [**2124-5-21**] 08:07 PM
   Infusions:
   Heparin Sodium - 650 units/hour
   Other ICU medications:
   Dilantin - [**2124-5-21**] 08:18 AM
   Pantoprazole (Protonix) - [**2124-5-22**] 04:23 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems: Intubated
   Flowsheet Data as of  [**2124-5-22**] 06:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 37.2
C (98.9
   HR: 82 (75 - 87) bpm
   BP: 115/50(66) {98/41(60) - 133/64(97)} mmHg
   RR: 15 (15 - 28) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 79 kg (admission): 73.6 kg
   Height: 64 Inch
             Total In:
                                                                  2,021 mL
                                                                    588 mL
   PO:
             TF:
   IVF:
                                                                    517 mL
                                                                    157 mL
   Blood products:
   Total out:
                                                                  2,305 mL
                                                                    470 mL
   Urine:
                                                                  2,035 mL
                                                                    410 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -284 mL
                                                                    118 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 457 (343 - 480) mL
   PS : 14 cmH2O
   RR (Spontaneous): 14
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 142
   PIP: 19 cmH2O
   SpO2: 100%
   ABG: ///26/
   Ve: 6.7 L/min
   Physical Examination
   General Appearance: Intubated, NAD
   Eyes / Conjunctiva: Pupils Left 1mm, Right 2mm, non-reactive, staccotic
   eye movements. No tracking
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: reg rate mech S1 nl S2 II/VI holosystolic murmur at
   apex
   Peripheral Vascular: DP/PT pulses palpable bilaterally
   Respiratory / Chest: vented breath sounds, no crackles or wheezes
   appreciated
   Abdominal: Bowel sounds present, non-tender, minimally distended
   Extremities: Upper extremity non-pitting edema L>R.  LUE with marked
   edema.
   Skin:  Cool, No Rash: , No Jaundice
   Neurologic: Unresponsive off sedation. Upgoing toes bilaterally. No
   purposeful response to deep nail-bed pressure in upper or lower
   extremities. Decerebrate posturing. No-purposeful movements
   Labs / Radiology
   424 K/uL
   10.1 g/dL
   82 mg/dL
   0.5 mg/dL
   26 mEq/L
   4.3 mEq/L
   20 mg/dL
   105 mEq/L
   135 mEq/L
   30.8 %
   13.0 K/uL
        [image002.jpg]
                             [**2124-5-18**]  06:30 AM
                             [**2124-5-18**]  08:51 PM
                             [**2124-5-19**]  06:03 AM
                             [**2124-5-19**]  02:00 PM
                             [**2124-5-20**]  07:28 AM
                             [**2124-5-20**]  03:23 PM
                             [**2124-5-20**]  10:28 PM
                             [**2124-5-21**]  03:36 AM
                             [**2124-5-21**]  01:35 PM
                             [**2124-5-22**]  04:15 AM
   WBC
   19.3
   18.3
   17.6
   14.0
   12.2
   12.1
   13.0
   Hct
   30.8
   29.0
   28.8
   27.5
   27.0
   26.7
   28.1
   28.4
   28.4
   30.8
   Plt
   184
   196
   236
   272
   300
   338
   424
   Cr
   0.5
   0.4
   0.5
   0.5
   0.5
   0.5
   0.5
   Glucose
   198
   68
   [**Telephone/Fax (3) 5748**]
   87
   82
   Other labs: PT / PTT / INR:12.6/55.1/1.1, CK / CKMB /
   Troponin-T:32/7/0.07, ALT / AST:117/173, Alk Phos / T Bili:228/0.3,
   Differential-Neuts:83.6 %, Band:0.0 %, Lymph:10.9 %, Mono:5.0 %,
   Eos:0.3 %, Lactic Acid:1.8 mmol/L, Albumin:2.6 g/dL, LDH:261 IU/L,
   Ca++:8.1 mg/dL, Mg++:2.0 mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
   81F with mech MVR, HOCM, bladder CA, VP shunt c/b IVH, recent MRSE
   bacteremia p/w PEA arrest after being found unresponsive with profound,
   now with severe encephalopathy, LUE/RLE DVT, UGIB, and fever of unclear
   etiology.
   .
   # Encephalopthy
 hypoxic/hypoglycemic cerebral insults peri-arrest
   without subsequent neurological improvement confer dismal prognosis;
   EEG not highly suggestive of status epilepticus but may be masked by
   global slowing; dilantin level therapeutic; no evidence of CNS
   infection by sampling of CSF from VP shunt; radiographic evidence of
   chronic overshunting unlikely to be contributing to present mental
   status
   - appreciate neuro recs
   - weekly phenytoin levels, adjust dose to maintain level 15-20
   - continue to communicate with family re: goals of care
   .
   # UGIB: s/p 1 U PRBC w/ stable Hct; high risk for rebleeding based on
   EGD findings in the setting of systemic anticoagulation. Required
   tranfusion of 1U pRBC
s on [**5-18**], hct has remained stable since that
   time
   -transfuse to maintain Hct >27
   -daily Hct
   -active T&C
   -PPI [**Hospital1 **]
   -monitor closely for s/sx of active bleeding
   .
   # Fever: fever/WBC curves trending down; has been afebrile since [**5-19**] at
   1600. Infectious w/u unrevealing to date. On vanc for MRSE bacteremia
   with possible endovascular source. Was scheduled for RUQ U/S today to
   evaluate for acalculous cholecystitis however given the low clinical
   suspicion with a negative abd CT, will hold off for now and re-consider
   if spikes
   -appreciate ID recs
   -cont vanc x 6 weeks
   -vanc level
   -f/u pending Cx data
   -trend WBC, fever curve
   .
   #MVR - TEE showed mechanical valve further supporting need for
   anticoagulation. Started on heparin on [**5-18**]
   - cont heparin gtt with goal PTT 60-80
   .
   # LUE/RLE DVT:  extensive clot involving LUE @ site of subclavian CVL
   as well as right iliac
 femoral veins
   -remove subclavian line when add
l access obtained (R PICC)
   -cont anticoagulation with heparin gtt
   .
   #Left pneumothorax: stable s/p pigtail cath placement, no e/o tension
   on chest CT
   -cont CT to H20 seal
   -f/u thoracics recs
   -follow clinical status, CXR
   .
   # Hyperglycemia: well-controlled with blood sugars in 100-120
s on
   current regimen
   -cont lantus 26U qAM, 36U insulin in TPN
   -cont SS insulin
   .
   # Hypothyroidism: Elevated TSH of 8 with slightly low free T 4 (0.9).
   Started on thryoid replacement on [**5-17**]
   - cont levothyroxine
   .
   # Ppx: heparin gtt, PPI
   # FEN:  TPN, replete lytes prn
   # Access: d/c left subclavian when PICC placed; right IJ placed on [**5-18**]
   # Code:  Full Code
   # Disp: CCU for now
   # Contact:  Daughter, [**Name (NI) 5542**] [**Name (NI) 5543**], HCP, [**Telephone/Fax (1) 5545**] or her
   husband [**Name (NI) **], [**Telephone/Fax (1) 5546**]
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2124-5-21**] 05:31 PM 62.5 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2124-5-18**] 08:11 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   I have reviewed the above progress note on [**2124-5-22**] at 9:01 AM by
   Dr. [**Last Name (STitle) 5621**], have reviewed the history with the housestaff and
   patient
s family, and concur with the physical examination noted
   above.  I agree with the assessment and treatment plan as outline
   above.  Mrs. [**Known lastname 5763**] is an 82 year old women who presented an anoxic
   encephalopathy along with a number of co-morbidities listed above.  I
   have discussed her current condition and our plan with the family at
   her bedside.  Our plan involves continued treatment of her
   encephalopathy and institution of anticoagulation for her systemic
   thromboses.  We will also remove her left subclavian line due to its
   potential source for infection and clot.  We will make movements to
   transition her toward chronic care and assess the need for the
   placement of a tracheostomy.
   [**First Name4 (NamePattern1) 3139**] [**Last Name (NamePattern1) 5279**], MD Cell [**Telephone/Fax (1) 5760**]
   ------ Protected Section Addendum Entered By:[**Name (NI) 3139**] [**Last Name (NamePattern1) 5279**], MD
   on:[**2124-5-22**] 20:17 ------

2124-05-23 05:52:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -remained afebrile
   -d/c
d subclavian and sent tip for culture
   -vanc level 18.1, no change in dosing
   -given lasix 10mg IV x1, 20mg IV x2
   -family meeting with no change in plan of care requested
   -febrile to 100.8 @ 1600
 pan-cultured
   Allergies:
   Lorazepam
   Confusion/Delir
   Last dose of Antibiotics:
   Vancomycin - [**2124-5-22**] 09:00 PM
   Infusions:
   Heparin Sodium - 750 units/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2124-5-22**] 06:00 PM
   Furosemide (Lasix) - [**2124-5-22**] 11:00 PM
   Metoprolol - [**2124-5-23**] 12:00 AM
   Dilantin - [**2124-5-23**] 12:00 AM
   Other medications:
   Changes to medical and family history: n/a
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2124-5-23**] 05:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.8
   Tcurrent: 36.8
C (98.2
   HR: 75 (66 - 82) bpm
   BP: 116/53(68) {99/35(52) - 123/61(73)} mmHg
   RR: 25 (15 - 27) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 79 kg (admission): 73.6 kg
   Height: 64 Inch
             Total In:
                                                                  2,307 mL
                                                                    472 mL
   PO:
             TF:
   IVF:
                                                                    801 mL
                                                                    107 mL
   Blood products:
   Total out:
                                                                  2,946 mL
                                                                  1,120 mL
   Urine:
                                                                  2,616 mL
                                                                  1,120 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -639 mL
                                                                   -648 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 269 (269 - 394) mL
   PS : 5 cmH2O
   RR (Spontaneous): 21
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 69
   PIP: 11 cmH2O
   SpO2: 100%
   ABG: 7.47/35/170//26
   Ve: 8.1 L/min
   Physical Examination
   General Appearance: Intubated, NAD
   Eyes / Conjunctiva: Pupils Left 1mm, Right 2mm, non-reactive, staccotic
   eye movements. No tracking
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: reg rate mech S1 nl S2 II/VI holosystolic murmur at
   apex
   Peripheral Vascular: DP/PT pulses palpable bilaterally
   Respiratory / Chest: vented breath sounds, no crackles or wheezes
   appreciated
   Abdominal: Bowel sounds present, non-tender, minimally distended
   Extremities: Upper extremity non-pitting edema L>R.  LUE with marked
   edema.
   Skin:  Cool, No Rash: , No Jaundice
   Neurologic: Unresponsive off sedation. Upgoing toes bilaterally. No
   purposeful response to deep nail-bed pressure in upper or lower
   extremities. Decerebrate posturing. No-purposeful movements
   Labs / Radiology
   424 K/uL
   10.1 g/dL
   82 mg/dL
   0.5 mg/dL
   26 mEq/L
   4.3 mEq/L
   20 mg/dL
   105 mEq/L
   135 mEq/L
   30.8 %
   13.0 K/uL
        [image002.jpg]
                             [**2124-5-18**]  06:30 AM
                             [**2124-5-18**]  08:51 PM
                             [**2124-5-19**]  06:03 AM
                             [**2124-5-19**]  02:00 PM
                             [**2124-5-20**]  07:28 AM
                             [**2124-5-20**]  03:23 PM
                             [**2124-5-20**]  10:28 PM
                             [**2124-5-21**]  03:36 AM
                             [**2124-5-21**]  01:35 PM
                             [**2124-5-22**]  04:15 AM
   WBC
   19.3
   18.3
   17.6
   14.0
   12.2
   12.1
   13.0
   Hct
   30.8
   29.0
   28.8
   27.5
   27.0
   26.7
   28.1
   28.4
   28.4
   30.8
   Plt
   184
   196
   236
   272
   300
   338
   424
   Cr
   0.5
   0.4
   0.5
   0.5
   0.5
   0.5
   0.5
   Glucose
   198
   68
   [**Telephone/Fax (3) 5748**]
   87
   82
   Other labs: PT / PTT / INR:12.6/77.4/1.1,
   CK / CKMB / Troponin-T:32/7/0.07,
    ALT / AST:117/173, Alk Phos / T Bili:228/0.3,
   Differential-Neuts:83.6 %, Band:0.0 %, Lymph:10.9 %, Mono:5.0 %,
   Eos:0.3 %,
   Lactic Acid:0.8 mmol/L, Albumin:2.6 g/dL, LDH:261 IU/L,
   Ca++:8.1 mg/dL, Mg++:2.0 mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
   81F with mech MVR, HOCM, bladder CA, VP shunt c/b IVH, recent MRSE
   bacteremia p/w PEA arrest after being found unresponsive with profound,
   now with severe encephalopathy, LUE/RLE DVT, and UGIB.
   .
   # Encephalopthy
 hypoxic/hypoglycemic cerebral insults peri-arrest
   without subsequent neurological improvement confer dismal prognosis;
   EEG not highly suggestive of status epilepticus but may be masked by
   global slowing; dilantin level therapeutic; no evidence of CNS
   infection by sampling of CSF from VP shunt; radiographic evidence of
   chronic overshunting unlikely to be contributing to present mental
   status
   -appreciate neuro recs
   -arrangement for PEG tube
   -weekly phenytoin levels, adjust dose to maintain level 15-20
   -continue to communicate with family re: goals of care
   .
   # UGIB: s/p 1 U PRBC w/ stable Hct; high risk for rebleeding based on
   EGD findings in the setting of systemic anticoagulation. Required
   tranfusion of 1U pRBC
s on [**5-18**], hct has remained stable since that
   time
   -transfuse to maintain Hct >27
   -daily Hct
   -active T&C
   -PPI [**Hospital1 **]
   -monitor closely for s/sx of active bleeding
   .
   # Fever: Likely [**2-21**] clot burden and endovascular infection in the
   setting of MRSE bacteremia; could pursue RUQ U/S to evaluate for
   acalculous cholecystitis but given a likely alternative source and low
   clinical suspicion with a negative abd CT, will defer exam for now
   -appreciate ID f/u
   -cont vanc x 6 weeks
   -f/u pending Cx data
   -trend WBC, fever curve
   .
   #MVR - TEE showed mechanical valve further supporting need for
   anticoagulation. Started on heparin on [**5-18**]
   -cont heparin gtt with goal PTT 60-80
   .
   # LUE/RLE DVT:  extensive clot involving LUE @ site of subclavian CVL
   as well as right iliac
 femoral veins; subclavian line removed [**5-23**]
   -cont anticoagulation with heparin gtt
   .
   #Left pneumothorax: stable, pigtail cath removed [**5-23**]
   -appreciate thoracics recs
   -follow clinical status, CXR
   .
   # Hyperglycemia: well-controlled with blood sugars in 100-120
s on
   current regimen
   -cont lantus 26U qAM, 36U insulin in TPN
   -cont SS insulin
   .
   # Hypothyroidism: Elevated TSH of 8 with slightly low free T 4 (0.9).
   Started on thryoid replacement on [**5-17**]
   - cont levothyroxine
   .
   # Ppx: heparin gtt, PPI
   # FEN:  TPN, replete lytes prn
   # Access: right IJ [**5-18**]; power PICC to be placed for add
l access
   # Code:  Full Code
   # Disp: CCU for now
   # Contact:  Daughter, [**Name (NI) 5542**] [**Name (NI) 5543**], HCP, [**Telephone/Fax (1) 5545**] or her
   husband [**Name (NI) **], [**Telephone/Fax (1) 5546**]
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2124-5-22**] 05:23 PM 62.5 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2124-5-18**] 08:11 PM
   Prophylaxis:
   DVT: heparin gtt
   Stress ulcer: PPI
   VAP:  bundle
   Code status: Full code
   Disposition: CCU
   ------ Protected Section ------
   I have reviewed the above progress note on [**2124-5-23**] by Dr. [**Last Name (STitle) 164**],
   have reviewed the history with the housestaff, and concur with the
   physical examination noted above.  I agree with the assessment and
   treatment plan as outline above.  Mrs. [**Known lastname 5763**] is an 82 year old women
   who presented an anoxic encephalopathy along with a number of
   co-morbidities listed above.  I have discussed her current condition
   and our plan with the family at her bedside.  Our plan involves
   continued treatment of her encephalopathy and institution of
   anticoagulation for her systemic thromboses.   We will arrange for a
   tracheostomy and potential G-tube placement as per the family
   requests.
   [**First Name4 (NamePattern1) 3139**] [**Last Name (NamePattern1) 5279**], MD Cell [**Telephone/Fax (1) 5760**]
   ------ Protected Section Addendum Entered By:[**Name (NI) 3139**] [**Last Name (NamePattern1) 5279**], MD
   on:[**2124-5-23**] 15:58 ------

2124-05-24 07:08:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - given lasix 20 IV x1
   - plan for EGD in am to reeval clot for possible PEG.
   - pt failed SBT.  Trach planned for [**5-24**] at 2:45pm.  Hep gtt to be held
   at 7am.  coags & type and screen sent with am labs.
   - need to start working with case management re: possible placement.
   - PICC placed.
   Allergies:
   Lorazepam
   Confusion/Delir
   Last dose of Antibiotics:
   Vancomycin - [**2124-5-23**] 09:20 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2124-5-23**] 06:40 PM
   Dilantin - [**2124-5-24**] 12:01 AM
   Metoprolol - [**2124-5-24**] 06:25 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems: Intubated
   Flowsheet Data as of  [**2124-5-24**] 07:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 37.4
C (99.4
   HR: 68 (67 - 86) bpm
   BP: 114/37(55) {94/31(49) - 134/64(75)} mmHg
   RR: 25 (21 - 29) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 79 kg (admission): 73.6 kg
   Height: 64 Inch
             Total In:
                                                                  2,259 mL
                                                                    511 mL
   PO:
             TF:
   IVF:
                                                                    794 mL
                                                                    112 mL
   Blood products:
   Total out:
                                                                  2,825 mL
                                                                    455 mL
   Urine:
                                                                  2,745 mL
                                                                    455 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -566 mL
                                                                     56 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 299 (222 - 488) mL
   PS : 10 cmH2O
   RR (Spontaneous): 27
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 98
   PIP: 16 cmH2O
   SpO2: 100%
   ABG: ///29/
   Ve: 7.9 L/min
   Physical Examination
   General Appearance: Intubated, NAD
   Eyes / Conjunctiva: Pupils Left 1mm, Right 2mm, non-reactive, staccotic
   eye movements. No tracking
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: reg rate mech S1 nl S2 II/VI holosystolic murmur at
   apex
   Peripheral Vascular: DP/PT pulses palpable bilaterally
   Respiratory / Chest: vented breath sounds, no crackles or wheezes
   appreciated
   Abdominal: Bowel sounds present, non-tender, minimally distended
   Extremities: Upper extremity non-pitting edema L>R.  LUE with marked
   edema.
   Skin:  Cool, No Rash: , No Jaundice
   Neurologic: Unresponsive off sedation. Upgoing toes bilaterally. No
   purposeful response to deep nail-bed pressure in upper or lower
   extremities. Decerebrate posturing. No-purposeful movements
   Labs / Radiology
   554 K/uL
   9.5 g/dL
   101 mg/dL
   0.5 mg/dL
   29 mEq/L
   4.1 mEq/L
   21 mg/dL
   104 mEq/L
   136 mEq/L
   28.9 %
   14.3 K/uL
        [image002.jpg]
                             [**2124-5-19**]  06:03 AM
                             [**2124-5-19**]  02:00 PM
                             [**2124-5-20**]  07:28 AM
                             [**2124-5-20**]  03:23 PM
                             [**2124-5-20**]  10:28 PM
                             [**2124-5-21**]  03:36 AM
                             [**2124-5-21**]  01:35 PM
                             [**2124-5-22**]  04:15 AM
                             [**2124-5-23**]  05:27 AM
                             [**2124-5-24**]  04:08 AM
   WBC
   17.6
   14.0
   12.2
   12.1
   13.0
   11.9
   14.3
   Hct
   28.8
   27.5
   27.0
   26.7
   28.1
   28.4
   28.4
   30.8
   30.2
   28.9
   Plt
   [**Telephone/Fax (3) 5819**]38
   424
   487
   554
   Cr
   0.5
   0.5
   0.5
   0.5
   0.5
   0.5
   0.5
   Glucose
   [**Telephone/Fax (3) 5820**]7
   82
   145
   101
   Other labs: PT / PTT / INR:13.2/52.1/1.1, CK / CKMB /
   Troponin-T:32/7/0.07, ALT / AST:64/66, Alk Phos / T Bili:207/0.3,
   Differential-Neuts:83.6 %, Band:0.0 %, Lymph:10.9 %, Mono:5.0 %,
   Eos:0.3 %, Lactic Acid:0.8 mmol/L, Albumin:2.6 g/dL, LDH:261 IU/L,
   Ca++:8.1 mg/dL, Mg++:1.9 mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
   81F with mech MVR, HOCM, bladder CA, VP shunt c/b IVH, recent MRSE
   bacteremia p/w PEA arrest after being found unresponsive with profound
   hypoglycemia, now with severe encephalopathy, LUE/RLE DVT, and UGIB.
   .
   # Encephalopthy
 hypoxic/hypoglycemic cerebral insults peri-arrest
   without subsequent neurological improvement confer dismal prognosis;
   EEG not highly suggestive of status epilepticus but may be masked by
   global slowing; dilantin level therapeutic; no evidence of CNS
   infection by sampling of CSF from VP shunt; radiographic evidence of
   chronic overshunting unlikely to be contributing to present mental
   status
   -appreciate neuro recs
   -arrangement for PEG tube after eval of UGIB
   -weekly phenytoin levels, adjust dose to maintain level 15-20 (last
   level [**2124-5-20**])
   -family prefers aggressive management after multiple discussions re:
   goals of care.
   .
   # UGIB: s/p 1 U PRBC w/ stable Hct; high risk for rebleeding based on
   EGD findings in the setting of systemic anticoagulation. Required
   tranfusion of 1U pRBC
s on [**5-18**], hct has remained stable since that
   time. No melena or hematemesis.
   -transfuse to maintain Hct >27
   -daily Hct, -active T&C
   -PPI [**Hospital1 **]
   -repeat EGD today to evaluate for residual clot
   .
   # Fever: Continues to have low grade temps, likely [**2-21**] clot burden and
   endovascular infection in the setting of MRSE bacteremia; could pursue
   RUQ U/S to evaluate for acalculous cholecystitis but given a likely
   alternative source and low clinical suspicion with a negative abd CT,
   will defer exam for now
   -cont vanc x 6 weeks  (start date [**5-11**])
   -f/u pending Cx data
   -trend WBC, fever curve
   .
   #MVR - TEE showed mechanical valve further supporting need for
   anticoagulation. Started on heparin on [**5-18**]
   -cont heparin gtt with goal PTT 60-80
   -start coumadin after repeat EGD to eval for residual blood clot in
   fundus
   .
   # LUE/RLE DVT:  extensive clot involving LUE @ site of subclavian CVL
   as well as right iliac
 femoral veins; subclavian line removed [**5-23**]
   -cont anticoagulation with heparin gtt (holding for tracheostomy this
   PM)
   .
   #Left pneumothorax: stable, pigtail cath removed [**5-23**]
   -appreciate thoracics recs
   -follow clinical status, CXR
   .
   # Hyperglycemia: well-controlled with blood sugars in 120-140
s on
   current regimen
   -cont lantus 26U qAM, 36U insulin in TPN
   -cont SS insulin
   .
   # Hypothyroidism: Elevated TSH of 8 with slightly low free T 4 (0.9).
   Started on thryoid replacement on [**5-17**]
   -cont levothyroxine
   .
   # Transaminitis: LFT
s trending down
   -no need to continue to trend
   .
   # Ppx: heparin gtt, PPI
   # FEN:  TPN, replete lytes prn
   # Access: right IJ [**5-18**]; right PICC, will d/c right IJ likely tomorrow.
   # Code:  Full Code
   # Disp: CCU for now, case manager will start to screen.
   # Contact:  Daughter, [**Name (NI) 5542**] [**Name (NI) 5543**], HCP, [**Telephone/Fax (1) 5545**] or her
   husband [**Name (NI) **], [**Telephone/Fax (1) 5546**]
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2124-5-23**] 05:19 PM 56.[**Telephone/Fax (5) 4104**] mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2124-5-18**] 08:11 PM
   PICC Line - [**2124-5-23**] 06:00 PM
   Prophylaxis:
   DVT: systemic anticoagulation + pneumoboots
   Stress ulcer: IV PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: Long-term placement planning after trach and PEG
   ------ Protected Section ------
   I have reviewed the above progress note on [**2124-5-24**] by Dr. [**First Name (STitle) 156**],
   have reviewed the history with the housestaff, and concur with the
   physical examination noted above.  I agree with the assessment and
   treatment plan as outline above.  Mrs. [**Known lastname 5763**] is an 82 year old women
   who presented an anoxic encephalopathy along with a number of
   co-morbidities listed above.    Our plan involves continued support for
   her encephalopathy. We will arrange for a tracheostomy and potential
   G-tube placement as per the family requests.
   [**First Name4 (NamePattern1) 3139**] [**Last Name (NamePattern1) 5279**], MD Cell [**Telephone/Fax (1) 5760**]
   ------ Protected Section Addendum Entered By:[**Name (NI) 3139**] [**Last Name (NamePattern1) 5279**], MD
   on:[**2124-5-24**] 15:12 ------

2124-05-25 07:22:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ENDOSCOPY - At [**2124-5-24**] 02:18 PM
 OR SENT - At [**2124-5-24**] 08:00 PM
   Sent to OR 20:00- escorted by anesthesia. Report called to [**Name8 (MD) 306**] RN
   in OR holding area.
 OR RECEIVED - At [**2124-5-24**] 11:15 PM
   -EGD showed small gastric AVM, antral polyps, no clot
   -IR consulted but wouldn't place G-J given overlying left hepatic lobe
   and bowel
   -s/p trach/G-tube/J-tube
   -[**Doctor First Name **] recs: hold heparin gtt until [**5-26**] (SQH OK), no feeds via J-tube
   until bowel sounds; trach sutures out in [**7-27**] days; abd staples out
   10-14 days
   Allergies:
   Lorazepam
   Confusion/Delir
   Last dose of Antibiotics:
   Vancomycin - [**2124-5-24**] 11:55 PM
   Infusions:
   Other ICU medications:
   Midazolam (Versed) - [**2124-5-24**] 02:24 PM
   Pantoprazole (Protonix) - [**2124-5-24**] 05:32 PM
   Dilantin - [**2124-5-25**] 12:00 AM
   Heparin Sodium (Prophylaxis) - [**2124-5-25**] 01:00 AM
   Fentanyl - [**2124-5-25**] 01:00 AM
   Metoprolol - [**2124-5-25**] 06:03 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2124-5-25**] 07:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 36.7
C (98.1
   HR: 76 (67 - 91) bpm
   BP: 112/50(63) {93/27(47) - 150/74(90)} mmHg
   RR: 27 (7 - 31) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 76.8 kg (admission): 73.6 kg
   Height: 64 Inch
             Total In:
                                                                  1,600 mL
                                                                  1,029 mL
   PO:
             TF:
   IVF:
                                                                    453 mL
                                                                    573 mL
   Blood products:
   Total out:
                                                                    980 mL
                                                                    430 mL
   Urine:
                                                                    980 mL
                                                                    320 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    620 mL
                                                                    599 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 460 (460 - 460) mL
   Vt (Spontaneous): 293 (261 - 711) mL
   PS : 10 cmH2O
   RR (Set): 14
   RR (Spontaneous): 29
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: RR >35
   PIP: 15 cmH2O
   SpO2: 100%
   ABG: ///27/
   Ve: 9.3 L/min
   Physical Examination
   General Appearance: Intubated, NAD
   Eyes / Conjunctiva: Pupils Left 1mm, Right 2mm, non-reactive, staccotic
   eye movements. No tracking
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, s/p
   tracheostomy with mild oozing from site, RIJ in place without erythema.
   Cardiovascular: reg rate S1 nl S2 II/VI holosystolic murmur at apex
   Peripheral Vascular: DP/PT pulses palpable bilaterally
   Respiratory / Chest: vented breath sounds, no crackles or wheezes
   appreciated
   Abdominal: Bowel sounds absent, non-tender, minimally distended
   Extremities: Upper extremity non-pitting edema L>R.  LUE with marked
   edema. Right PICC line in place without erythema.
   Skin:  Cool, No Rash
   Neurologic: Unresponsive off sedation. Upgoing toes bilaterally. No
   purposeful response to deep nail-bed pressure in upper or lower
   extremities. Decerebrate posturing. No-purposeful movements
   Labs / Radiology
   576 K/uL
   9.9 g/dL
   167 mg/dL
   0.5 mg/dL
   27 mEq/L
   4.4 mEq/L
   21 mg/dL
   106 mEq/L
   137 mEq/L
   30.2 %
   20.8 K/uL
        [image002.jpg]
                             [**2124-5-19**]  02:00 PM
                             [**2124-5-20**]  07:28 AM
                             [**2124-5-20**]  03:23 PM
                             [**2124-5-20**]  10:28 PM
                             [**2124-5-21**]  03:36 AM
                             [**2124-5-21**]  01:35 PM
                             [**2124-5-22**]  04:15 AM
                             [**2124-5-23**]  05:27 AM
                             [**2124-5-24**]  04:08 AM
                             [**2124-5-25**]  04:09 AM
   WBC
   14.0
   12.2
   12.1
   13.0
   11.9
   14.3
   20.8
   Hct
   27.5
   27.0
   26.7
   28.1
   28.4
   28.4
   30.8
   30.2
   28.9
   30.2
   Plt
   272
   300
   338
   [**Telephone/Fax (3) 5837**]
   576
   Cr
   0.5
   0.5
   0.5
   0.5
   0.5
   0.5
   0.5
   Glucose
   109
   134
   87
   82
   145
   101
   167
   Other labs: PT / PTT / INR:13.0/52.1/1.1,
   Ca++:8.1 mg/dL, Mg++:1.9 mg/dL, PO4:3.8 mg/dL
   Phenytoin 6.0, corrected phenytoin level for albumin in 12.0
   Albumin 2.0 yesterday
   MICRO:
   [**5-22**]
 blood cx
 ngtd
   [**5-23**]
 blood cx
 ngtd
   [**5-23**]
 urine cx
 final -- yeast
   [**5-20**] -- Urine AFB
 pending
   [**5-23**]
 stool
 c diff neg.
   EGD: [**2124-5-24**]
   Polyps in the antrum
   Possible small gastric AVM
   Otherwise normal EGD to second part of the duodenum
   Assessment and Plan
   81F with mech MVR, HOCM, bladder CA, VP shunt c/b IVH, recent MRSE
   bacteremia p/w PEA arrest after being found unresponsive with profound
   hypoglycemia, now with severe encephalopathy, LUE/RLE DVT, and UGIB.
   .
   # Encephalopthy
 hypoxic/hypoglycemic cerebral insults peri-arrest
   without subsequent neurological improvement confer dismal prognosis;
   EEG showed no evidence of seizure activity but with epileptiform wave
   forms therefore she continues on dilantin for prophylaxis; dilantin
   level sub-therapeutic at 12 this am
 goal is 15-20 after correcting
   for albumin
   -appreciate neuro recs
   - phenytoin level slightly low today.  Will likely bolus with phenytoin
   today but will discuss with neurology to get appropriate dose
   adjustment.  Will recheck level after bolus.  Will discuss switch to
   keppra with neurology.  adjust dose to maintain level 15-20 (last level
   [**2124-5-20**])
   -family prefers aggressive management after multiple discussions re:
   goals of care.
   .
   # UGIB: s/p EGD  yesterday with resolution of clot in antrum which is
   reassuring given need for systemic anticoagulation. Required tranfusion
   of 1U pRBC
s on [**5-18**], hct has remained stable since that time. No
   melena or hematemesis.
   -transfuse to maintain Hct >27
   -daily Hct, active T&C
   -PPI [**Hospital1 **]
   .
   # Fever: Continues to have low grade temps, likely [**2-21**] clot burden and
   endovascular infection in the setting of MRSE bacteremia.
   -cont vanc x 6 weeks  (start date [**5-11**])
   -recheck weekly vanc levels with goal >15 (last level [**5-22**])
   -f/u pending Cx data
   -trend WBC, fever curve
   .
   #MVR - TEE showed mechanical valve further supporting need for
   anticoagulation. Started on heparin on [**5-18**] which was held given trach,
   j-tube and G-tube placement yesterday.
   -restart heparin gtt with goal PTT 60-80 on [**5-26**] per surgery.
   -start coumadin after 24hrs on heparin
   .
   # LUE/RLE DVT:  extensive clot involving LUE @ site of subclavian CVL
   as well as right iliac
 femoral veins; subclavian line removed [**5-23**]
   - anticoagulation with heparin gtt as above
   .
   #Left pneumothorax: stable, s/p pigtail cath removed [**5-23**]
   -appreciate thoracics recs
   -follow clinical status, daily CXR
   .
   # Hyperglycemia: well-controlled with blood sugars in 120-160
s on
   current regimen
   -cont lantus 26U qAM, 36U insulin in TPN
   -cont SS insulin
   .
   # Hypothyroidism: Elevated TSH of 8 with slightly low free T 4 (0.9).
   Started on thryoid replacement on [**5-17**]
   -cont levothyroxine
   .
   # Ppx: cont hep SQ, pneumoboots. PPI
   # FEN:  TPN, replete lytes prn, will start TF once bowel sounds
   present.  Diurese with goal 1L negative
   # Access: right IJ [**5-18**]; right PICC, d/c IJ today
   # Code:  Full Code
   # Disp: CCU for now, discuss with case manager re:LTAC placement
   # Contact:  Daughter, [**Name (NI) 5542**] [**Name (NI) 5543**], HCP, [**Telephone/Fax (1) 5545**] or her
   husband [**Name (NI) **], [**Telephone/Fax (1) 5546**]
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2124-5-24**] 11:34 PM 62.5 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2124-5-18**] 08:11 PM
   PICC Line - [**2124-5-23**] 06:00 PM
   Prophylaxis:
   DVT: pneumoboots, heparin subq. Until systemic AC restarted
   Stress ulcer: PPI [**Hospital1 **]
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   I have reviewed the above progress note on [**2124-5-25**] by Dr. [**Last Name (STitle) 5621**],
   and concur with the history and physical examination noted above.  I
   was present during the pertinent portions of the physical examination.
   I also agree with the assessment and treatment plan as outline above.
   Mrs. [**Known lastname 5763**] is an 82 year old woman who presented an anoxic.  She has
   undergone successful G-tube and J-tube placement and a tracheostomy as
   per the family requests.   We are now in the position of determining
   appropriate support therapy in a long-term acute care facility.  Her
   anticoagulation will be restarted now that all source of bleeding have
   stabilized.
   [**First Name4 (NamePattern1) 3139**] [**Last Name (NamePattern1) 5279**], MD Cell [**Telephone/Fax (1) 5760**]
   ------ Protected Section Addendum Entered By:[**Name (NI) 3139**] [**Last Name (NamePattern1) 5279**], MD
   on:[**2124-5-25**] 14:33 ------